US04209444
A mixture of 0.9 g of 9,9;15,15-bis-(ethylenedioxy)-13-prostenoic acid ethyl ester, 60 ml of dioxan, 40 ml of H2O and 0.08 g of NaOH is boiled for 2 hours. The solvent is distilled. After recrystallization of the residue from methanol, the sodium salt of 9,9;15,15-bis-(ethylenedioxy)-13-prostenoic acid is obtained.

reactant | 15,15-bis-(ethylenedioxy)-13-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1CCC[C@@H]1C=CC12C(CCCC)(OCCO1)OCCO2)=O | C26H44O6
reactant | dioxan | 60 ml | O1CCOCC1 | C4H8O2
reactant | NaOH | 0.08 g | [OH-].[Na+]
solvent | H2O | 40 ml | O | H2O
product | 15,15-bis-(ethylenedioxy)-13-prostenoic acid | C1OC2(C=C[C@H]3CCC[C@@H]3CCCCCCC(=O)O)C(CCCC)(OCCO2)OC1 | C24H40O6
